US20010041802A1
(2,6-dimethoxy)phenylboronic acid
A solution of 1,3-dimethoxybenzene (33.2 g, 240 mmol) in hexanes (20 mL) at −20° C. was treated sequentially with n-butyllithium (100 mL of a 2.4M solution in hexanes, 240 mmol) and N,N,N′,N′-tetramethylethylenediamine (1.81 mL, 12 mmol), stirred for 1.5 hours, cooled to −78° C., treated with triisopropylborate (60.9 mL, 264 mmol) in diethyl ether (60 mL) over 1.5 hours with additional diethyl ether (150 mL) added to maintain stirring, stirred at 23° C. for 2 hours, poured into ice (150 mL) and 3M HCl (150 mL), and extracted with ethyl acetate. The extract was dried (Na2SO4), filtered, and concentrated, during which a white solid precipitated. The solid was collected by filtration and washed with hexanes to provide the desired compound, which used without further purification. MS (DCI/NH3) m/z 200 (M+NH4)+.

reactant | 1,3-dimethoxybenzene | 240 mmol, 33.2 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 12 mmol, 1.81 mL | CN(CCN(C)C)C | C6H16N2
reactant | triisopropylborate | 264 mmol, 60.9 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 3M, 150 mL | Cl | ClH
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | (2,6-dimethoxy)phenylboronic acid | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
